US05563162
To a solution of ethyl 4-aminocinnamate (3.00 g) in dichloromethane (21 ml) were added di-tert-butyl dicarbonate (3.77 g) and triethylamine (318 mg) in ice water bath and the mixture was stirred for 1 hour at 0° C. and at ambient temperature for 3 hours and heated to reflux for 12 hours. The reaction mixture was poured into water and extracted with dichloromethane. The precipitate was filtered off. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with chloroform and recrystallized from a mixture of ethyl acetate and n-hexane to give ethyl 4-(tert-butoxycarbonylamino)cinnamate (2.38 g) as crystals.

reactant | ethyl 4-aminocinnamate | 3.00 g | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | di-tert-butyl dicarbonate | 3.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 318 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 21 ml | ClCCl | CH2Cl2
product | ethyl 4-(tert-butoxycarbonylamino)cinnamate | 2.38 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=CC(=O)OCC)C=C1 | C16H21NO4
